datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][S:10][H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9](=[C:8]([H:11])[H:12])[S:10][H:13],14.2256
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]1([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17],70.7514
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:17])[H:15])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]1([C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:17])[H:15])([H:7])[H:8],74.4334
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]1([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],57.8647
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:29])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25],85.47912
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:24])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])[c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])([H:21])([H:22])[H:23],59.8312
[H:5].[O:0]([O:1][O:2][H:4])[H:3]>>[O:0]([H:3])[H:5].[O:1][O:2][H:4],18.1507
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([O:7][O:8])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:8][O:7][C:6](=[C:5]([H:9])[H:10])[H:11],87.864
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]([C:14]([S:15][H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([S:15][H:20])[H:19],89.4121
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])[H:5].[H:4][C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13],94.14
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])[C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8][H:12])[H:16])([H:9])([H:10])[H:11],114.2232
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[C:17]([c:18]1[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]1[H:31])([H:24])([H:25])[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[C:23]1([H:31])[C:18]([C:17]([H:24])([H:25])[H:26])=[C:19]([H:27])[C:20]([H:28])=[C:21]([H:29])[C:22]1[H:30])([H:8])([H:9])[H:10],47.5686
[C:0]#[C:1][C:2]#[C:3][H:4].[c:5]1([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16]>>[C:0](#[C:1][C:2]#[C:3][H:4])[H:11].[c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])[H:8])([H:6])[H:7],17.3218
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[O:15][O:16][H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][O:15][O:16][H:17],29.932336
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:14],21.7568
[C:0]([S:1][S:2][S:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([S:1][S:2][H:8])([H:4])([H:5])[H:6].[S:3][H:7],6.276
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[S:10]=[C:11][S:12][H:13]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11](=[S:10])[S:12][H:13],27.196
